US04065497
N,N,N'-Tri-(2,3-dihydroxypropyl)trimethylenediamine
N,N-di-(2,3-dihydroxypropyl)trimethylenediamine (11.1 g., 0.05 mole) was dissolved in 125 ml. of methanol and heated under reflux with agitation. Glycidol (3.7 g., 0.05 mole) was added dropwise over a period of 1.5 hour and the solution mixed an additional hour at 60° C.-80° C. The methyl alcohol and other volatiles were removed by stripping under reduced pressure to leave the product suitable for use in the next steps.

reactant | N,N-di-(2,3-dihydroxypropyl)trimethylenediamine | 0.05 mole, 11.1 g | OC(CN(CCCN)CC(CO)O)CO | C9H22N2O4
reactant | Glycidol | 0.05 mole, 3.7 g | C1C(O1)CO | C3H6O2
solvent | methanol | CO | CH4O
product | N,N,N'-Tri-(2,3-dihydroxypropyl)trimethylenediamine | OC(CN(CCCNCC(CO)O)CC(CO)O)CO | C12H28N2O6
